US05463077
By working in accordance with the operating method of Use Example 4, starting from 0.8 g of (3aS, 4S, 7aS)-7,7 -diphenyl-4-(2-methoxyphenyl)-perhydroisoindol-4-ol hydrochloride and 0.39 g of (5-fluoro-3-indolyl)-acetic acid, 0.36 g of (3aS, 4S, 7aS)-7,7-diphenyl-2-[(5-fluoro-3-indolyl)-acetyl]-4-(2-methoxyphenyl)-perhydroisoindol-4-ol is obtained in the form of white crystals which melt with decomposition at 170° C.

reactant | (3aS, 4S, 7aS)-7,7 -diphenyl-4-(2-methoxyphenyl)-perhydroisoindol-4-ol hydrochloride | 0.8 g | Cl.C1(=CC=CC=C1)C1(CC[C@@]([C@@H]2CNC[C@H]12)(O)C1=C(C=CC=C1)OC)C1=CC=CC=C1
reactant | (5-fluoro-3-indolyl)-acetic acid | 0.39 g | FC=1C=C2C(=CNC2=CC1)CC(=O)O | C10H8FNO2
product | (3aS, 4S, 7aS)-7,7-diphenyl-2-[(5-fluoro-3-indolyl)-acetyl]-4-(2-methoxyphenyl)-perhydroisoindol-4-ol | 0.36 g | C1(=CC=CC=C1)C1(CC[C@@]([C@@H]2CN(C[C@H]12)C(CC1=CNC2=CC=C(C=C12)F)=O)(O)C1=C(C=CC=C1)OC)C1=CC=CC=C1 | C37H35FN2O3
